US06156700
Preparation of {{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methoxy}acetic acid
To a mixture of {{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methoxy}acetic acid, methyl ester (4.19 g, 0.00977 mol) and acetic acid is added 37% hydrochloric acid (5.00 ml). The resultant mixture is stirred overnight at 65° C. and cooled to room temperature. The mixture is concentrated in vacuo. The residue is suspended in water and quenched slowly by the addition of solid sodium bicarbonate to neutral pH. The resultant mixture is partitioned between ether and saturated sodium bicarbonate, and filtered. The filtrate is washed with methylene chloride, acidified with hydrochloric acid, and filtered to give the title product as a white solid (2.87 g, 70.7%, mp 191-192° C.) which is identified by NMR spectral analysis.

reactant | {{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methoxy}acetic acid, methyl ester | 0.00977 mol, 4.19 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)COCC(=O)OC)C1)=O | C17H14F3N3O5S
reactant | hydrochloric acid | 5.00 ml | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | {{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methoxy}acetic acid | 2.87 g, 70.7% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)COCC(=O)O)C1)=O | C16H12F3N3O5S
